US07723331B2
b) 2-(4-Chlorophenyl)thieno[2,3-d]pyridazin-7(6H)-one
To a stirred solution of 5-(4-chlorophenyl)-3-formylthiophene-2-carboxylic acid (3 g, 0.011 mol) in ethanol (30 ml) was added hydrazine hydrate (0.65 ml, 0.013 mol) in small drops. To this was added conc. HCl (1.8 ml, 0.058 mol) in a dropwise manner and heated to 82° C. for 2 days. The reaction mixture was allowed to cool down and 10% NaHCO3 (5 ml) was added slowly until pH=8. The solid was filtered, washed with water (200 ml) and dried to afford 2.1 g (71%) of the title compound. Rf=0.5 (CHCl3:MeOH, 8:2). 1H NMR (400 MHz, DMSO-d6) δ 12.98 (bs, 1H), 8.39 (s, 1H), 7.98 (s, 1H), 7.88 (d, 2H, J=8.6 Hz), 7.59 (d, 2H, J=8.6 Hz).

reactant | 5-(4-chlorophenyl)-3-formylthiophene-2-carboxylic acid | 0.011 mol, 3 g | ClC1=CC=C(C=C1)C1=CC(=C(S1)C(=O)O)C=O | C12H7ClO3S
reactant | hydrazine hydrate | 0.013 mol, 0.65 ml | O.NN
reactant | HCl | 0.058 mol, 1.8 ml | Cl | ClH
reactant | NaHCO3 | 5 ml | C(=O)(O)[O-].[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-(4-Chlorophenyl)thieno[2,3-d]pyridazin-7(6H)-one | 2.1 g, 71% | ClC1=CC=C(C=C1)C1=CC2=C(C(NN=C2)=O)S1 | C12H7ClN2OS
